US04812164
using 2-ethoxy-1-(4-bromo-2-fluoro-5-hydroxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone and allyl bromide with sodium hydride in dimethylformamide there is obtained 2-ethoxy-1-[4-bromo-2-fluoro-5-(2-propenyloxy)-phenyl]-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 68°-70° C.;

reactant | 2-ethoxy-1-(4-bromo-2-fluoro-5-hydroxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)O)Br)F | C13H9BrF4N2O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-ethoxy-1-[4-bromo-2-fluoro-5-(2-propenyloxy)-phenyl]-4-trifluoromethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)OCC=C)Br)F | C16H13BrF4N2O3
